* File: D_flip_flop.pex.netlist.pex
* Created: Sat Nov 18 19:07:11 2023
* Program "Calibre xRC"
* Version "v2014.4_28.20"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_D_FLIP_FLOP%:CLK 3 7 11 15 19 23 25 26 27 28 38 39 42 46 50 52 58 59
+ 63 66 70 74 78 82 96
c108 96 0 0.00429861f
c109 82 0 0.00434028f
c110 78 0 0.00884798f
c111 74 0 0.00865485f
c112 70 0 0.00870289f
c113 66 0 0.00865485f
c114 63 0 0.00896174f
c115 59 0 0.00307822f
c116 58 0 0.0479535f
c117 52 0 0.0859593f
c118 50 0 0.0348493f
c119 46 0 0.00396742f
c120 42 0 0.00400852f
c121 39 0 0.0286341f
c122 38 0 7.29678e-19
c123 28 0 0.00483198f
c124 27 0 0.00684609f
c125 26 0 0.00301777f
c126 25 0 0.00638777f
c127 23 0 0.0263348f
c128 19 0 0.0277279f
c129 15 0 0.0225367f
c130 11 0 0.0300556f
c131 7 0 0.0250783f
c132 3 0 0.0300512f
r133 82 83 88.2939
r134 78 96 77.0449
r135 66 82 77.0449
r136 62 63 77.0449
r137 59 96 88.2939
r138 58 59 88.2939
r139 55 83 8.17857
r140 54 58 4
r141 54 55 88.2939
r142 52 55 0.0178571
r143 51 63 0.597143
r144 50 51 88.2939
r145 48 50 1.94643
r146 47 52 0.139682
r147 47 50 1.94643
r148 46 74 77.0449
r149 45 46 88.2939
r150 42 70 77.0449
r151 41 45 1.53571
r152 41 42 88.2939
r153 39 48 0.139682
r154 39 45 2.19643
r155 37 51 0.461429
r156 37 38 0.0418175
r157 33 38 0.160909
r158 29 38 0.160909
r159 28 33 1.00429
r160 27 29 1.05857
r161 25 62 8.35714
r162 25 26 0.10486
r163 21 78 5.54313
r164 21 23 49.92
r165 17 26 4.32724
r166 17 19 34.32
r167 13 26 4.32724
r168 13 15 29.64
r169 9 74 5.54313
r170 9 11 45.24
r171 5 70 5.54313
r172 5 7 45.24
r173 1 66 5.54313
r174 1 3 49.92
.ends

.subckt PM_D_FLIP_FLOP%CLK 3 7 11 15 17 18 28 29 32 34 37 41 45 46 49 50 52 54
+ 58 62 66
c107 66 0 0.00877094f
c108 62 0 0.00865485f
c109 58 0 0.00865485f
c110 54 0 0.00865485f
c111 52 0 0.00192082f
c112 50 0 0.00430937f
c113 49 0 0.0218275f
c114 46 0 0.00684979f
c115 45 0 0.0440256f
c116 41 0 0.00441675f
c117 37 0 0.00435988f
c118 34 0 0.0475577f
c119 32 0 0.00443534f
c120 29 0 0.090351f
c121 28 0 6.11836e-19
c122 18 0 0.00466522f
c123 17 0 0.00514669f
c124 15 0 0.0342825f
c125 11 0 0.038026f
c126 7 0 0.0342709f
c127 3 0 0.0403184f
r128 50 66 77.0449
r129 49 50 88.2939
r130 47 52 0.105861
r131 47 49 2.16071
r132 45 46 88.2939
r133 43 52 0.0275115
r134 43 45 2.44643
r135 42 45 2.44643
r136 41 62 77.0449
r137 40 41 88.2939
r138 37 58 77.0449
r139 36 40 1.53571
r140 36 37 88.2939
r141 34 42 0.139682
r142 34 40 3.73214
r143 32 54 77.0449
r144 31 32 88.2939
r145 29 52 0.105861
r146 29 31 9.73214
r147 27 46 0.461429
r148 27 28 0.0418175
r149 23 28 0.160909
r150 19 28 0.160909
r151 18 23 1.00429
r152 17 19 1.05857
r153 13 66 5.54313
r154 13 15 67.08
r155 9 62 5.54313
r156 9 11 71.76
r157 5 58 5.54313
r158 5 7 71.76
r159 1 54 5.54313
r160 1 3 67.08
.ends

.subckt PM_D_FLIP_FLOP%NET1 3 7 9 10 11 12 13 14 24 27 30 32 37
c58 37 0 0.00897733f
c59 32 0 0.0160207f
c60 30 0 0.00358407f
c61 27 0 0.00652629f
c62 24 0 0.00118259f
c63 13 0 0.0069794f
c64 12 0 0.0180835f
c65 11 0 0.00738155f
c66 10 0 0.00168165f
c67 9 0 0.00647393f
c68 7 0 0.0214433f
c69 3 0 0.0173589f
r70 36 37 77.0449
r71 32 33 88.2939
r72 30 32 2.51786
r73 28 37 0.597143
r74 27 28 88.2939
r75 25 30 0.139682
r76 25 27 0.375
r77 23 28 0.461429
r78 23 24 0.0418175
r79 19 24 0.160909
r80 15 24 0.160909
r81 14 33 1.95429
r82 13 19 1.00429
r83 12 33 0.488571
r84 11 15 1.05857
r85 9 36 8.35714
r86 9 10 0.10486
r87 5 10 4.32724
r88 5 7 34.32
r89 1 10 4.32724
r90 1 3 29.64
.ends

.subckt PM_D_FLIP_FLOP%:RESET 3 6 9 13 15 16 17 18 25 29 30 33 36 37 39 40 45 49
c109 49 0 0.00449122f
c110 45 0 0.00870289f
c111 40 0 0.00204325f
c112 39 0 0.0521176f
c113 37 0 0.00170694f
c114 36 0 0.0205266f
c115 33 0 0.00216012f
c116 30 0 0.0138521f
c117 29 0 6.63466e-19
c118 25 0 0.0142582f
c119 18 0 0.00639761f
c120 17 0 0.00733797f
c121 16 0 0.00168165f
c122 15 0 0.00638777f
c123 13 0 0.0161031f
c124 9 0 0.0141858f
c125 3 0 0.0486808f
r126 45 49 77.0449
r127 40 57 88.2939
r128 39 40 88.2939
r129 37 39 7.83929
r130 35 37 0.139682
r131 35 36 2.32143
r132 33 49 88.2939
r133 32 33 88.2939
r134 30 36 0.139682
r135 30 32 0.625
r136 28 57 0.57
r137 28 29 0.160909
r138 25 26 77.0449
r139 23 29 0.0418175
r140 23 25 2.14429
r141 19 29 0.160909
r142 18 19 1.00429
r143 17 57 0.488571
r144 15 26 8.35714
r145 15 16 0.10486
r146 11 16 4.32724
r147 11 13 34.32
r148 7 16 4.32724
r149 7 9 29.64
r150 3 6 74.88
r151 1 45 5.54313
r152 1 6 45.24
.ends

.subckt PM_D_FLIP_FLOP%NET6 3 7 11 12 13 14 19 20 21 31 33 37
c71 37 0 0.00733268f
c72 33 0 0.020859f
c73 31 0 0.00362884f
c74 21 0 0.00291309f
c75 20 0 0.00147418f
c76 19 0 0.00201289f
c77 13 0 0.00589517f
c78 12 0 0.01459f
c79 11 0 0.00762828f
c80 10 0 0.00227706f
c81 7 0 0.0226724f
c82 3 0 0.0186176f
r83 33 34 88.2939
r84 31 37 77.0449
r85 30 33 1.57143
r86 30 31 88.2939
r87 26 30 1.46429
r88 26 27 88.2939
r89 21 27 0.106158
r90 19 27 0.106158
r91 19 20 0.705714
r92 15 20 0.212317
r93 14 34 1.19429
r94 13 15 1.00429
r95 12 34 1.24857
r96 11 21 1.05857
r97 9 37 6.12857
r98 9 10 0.10486
r99 5 10 4.32724
r100 5 7 34.32
r101 1 10 4.32724
r102 1 3 29.64
.ends

.subckt PM_D_FLIP_FLOP%NET5 3 7 11 14 15 16 17 18 19 20 33 34 43 44 45 46 49 50
+ 54 55 59 63 70 79
c114 79 0 0.00454143f
c115 70 0 0.0050636f
c116 66 0 0.00872343f
c117 63 0 0.00753894f
c118 60 0 1.3595e-19
c119 59 0 0.00252352f
c120 55 0 0.00285846f
c121 54 0 0.0181615f
c122 50 0 0.00419809f
c123 49 0 0.0238644f
c124 46 0 0.00156718f
c125 45 0 0.0314525f
c126 44 0 0.0163273f
c127 43 0 0.00541853f
c128 42 0 9.42148e-19
c129 40 0 0.00105903f
c130 34 0 0.00198885f
c131 33 0 0.00191205f
c132 20 0 0.00756581f
c133 19 0 0.00575859f
c134 18 0 0.00940044f
c135 17 0 0.0073808f
c136 16 0 0.00301777f
c137 15 0 0.00638777f
c138 11 0 0.0703483f
c139 7 0 0.0277279f
c140 3 0 0.0233936f
r141 66 79 77.0449
r142 63 74 0.597143
r143 62 63 77.0449
r144 59 70 88.2939
r145 58 59 88.2939
r146 55 79 88.2939
r147 54 55 88.2939
r148 52 60 0.105861
r149 52 54 2.16071
r150 50 74 88.2939
r151 49 50 88.2939
r152 47 60 0.0275115
r153 47 49 2.19643
r154 45 60 0.105861
r155 45 46 7.35714
r156 44 46 0.139682
r157 43 58 0.116154
r158 43 44 1.92857
r159 41 74 0.461429
r160 41 42 0.160909
r161 39 70 0.407143
r162 39 40 0.0418175
r163 35 42 0.0418175
r164 33 42 0.160909
r165 33 34 0.705714
r166 29 34 0.212317
r167 25 40 0.160909
r168 21 40 0.160909
r169 20 29 1.00429
r170 19 25 0.787143
r171 18 35 1.05857
r172 17 21 1.27571
r173 15 62 8.35714
r174 15 16 0.10486
r175 11 14 74.88
r176 9 66 5.54313
r177 9 14 56.16
r178 5 16 4.32724
r179 5 7 34.32
r180 1 16 4.32724
r181 1 3 29.64
.ends

.subckt PM_D_FLIP_FLOP%XT_N/NET3 1 2 8
c23 8 0 0.016467f
c24 2 0 0.00491289f
c25 1 0 0.00409751f
r26 4 8 1.42857
r27 2 8 88.2939
r28 1 4 88.2939
.ends

.subckt PM_D_FLIP_FLOP%NET10 3 6 7 8 18 19 22 26 27 30
c54 30 0 0.00847943f
c55 27 0 0.00684979f
c56 26 0 0.0272414f
c57 22 0 0.00433552f
c58 19 0 0.0260265f
c59 18 0 5.98482e-19
c60 8 0 0.00495079f
c61 7 0 0.00835581f
c62 3 0 0.0574329f
r63 26 27 88.2939
r64 24 26 2.44643
r65 22 30 77.0449
r66 21 22 88.2939
r67 19 24 0.139682
r68 19 21 2.19643
r69 17 27 0.461429
r70 17 18 0.0418175
r71 13 18 0.160909
r72 9 18 0.160909
r73 8 13 1.00429
r74 7 9 1.05857
r75 3 6 74.88
r76 1 30 5.54313
r77 1 6 67.08
.ends

.subckt PM_D_FLIP_FLOP%D 3 6 9 11
c10 11 0 0.00852104f
c11 9 0 0.00865485f
c12 3 0 0.0632857f
r13 9 11 77.0449
r14 3 6 74.88
r15 1 9 5.54313
r16 1 6 45.24
.ends

.subckt PM_D_FLIP_FLOP%NET8 3 7 9 10 11 12 23
c23 26 0 0.00237431f
c24 23 0 0.0100123f
c25 12 0 0.00994201f
c26 11 0 0.0103293f
c27 10 0 0.00301777f
c28 9 0 0.00638777f
c29 7 0 0.0277279f
c30 3 0 0.0233936f
r31 23 24 77.0449
r32 21 26 0.0418175
r33 21 23 1.05857
r34 17 26 0.160909
r35 13 26 0.160909
r36 12 17 1.00429
r37 11 13 1.05857
r38 9 24 8.35714
r39 9 10 0.10486
r40 5 10 4.32724
r41 5 7 34.32
r42 1 10 4.32724
r43 1 3 29.64
.ends

.subckt PM_D_FLIP_FLOP%NET2 1 2 3 4 13 23 24
c20 24 0 9.4408e-19
c21 23 0 0.00111028f
c22 13 0 0.00175436f
c23 4 0 0.00738967f
c24 3 0 0.00796299f
c25 2 0 0.00693862f
c26 1 0 0.00787616f
r27 19 24 0.160909
r28 15 24 0.160909
r29 14 23 0.0418175
r30 13 24 0.0418175
r31 13 14 0.868571
r32 9 23 0.160909
r33 5 23 0.160909
r34 4 19 1.00429
r35 3 9 1.00429
r36 2 15 1.05857
r37 1 5 1.05857
.ends

.subckt PM_D_FLIP_FLOP%CLK_MAIN 3 6 11
c21 11 0 0.00870196f
c22 9 0 0.00891028f
c23 3 0 0.074384f
r24 9 11 77.0449
r25 3 6 74.88
r26 1 9 5.54313
r27 1 6 78
.ends

.subckt PM_D_FLIP_FLOP%RESET 3 6 9 11
c21 11 0 0.00619711f
c22 9 0 0.00865485f
c23 3 0 0.0622569f
r24 9 11 77.0449
r25 3 6 74.88
r26 1 9 5.54313
r27 1 6 45.24
.ends

.subckt PM_D_FLIP_FLOP%GND 1 2 3 4 5 6 7 8 9 10 12 14 25 31 37 43 49 55 61 67 73
+ 80 88
c149 89 0 0.00235221f
c150 88 0 0.00186057f
c151 87 0 0.00235221f
c152 86 0 0.00235221f
c153 85 0 0.00235221f
c154 84 0 0.00188676f
c155 83 0 0.00235221f
c156 82 0 0.00235221f
c157 81 0 0.00235221f
c158 73 0 0.0197811f
c159 67 0 0.0266933f
c160 61 0 0.0153297f
c161 55 0 0.0135809f
c162 49 0 0.0135809f
c163 43 0 0.0208284f
c164 37 0 0.035861f
c165 31 0 0.0297939f
c166 25 0 0.0152215f
c167 19 0 0.00365664f
c168 14 0 0.00811821f
c169 12 0 0.00969304f
c170 10 0 0.0082803f
c171 9 0 0.00745109f
c172 8 0 0.00740682f
c173 7 0 0.00579947f
c174 6 0 0.00385586f
c175 5 0 0.00574384f
c176 4 0 0.00795051f
c177 3 0 0.00860033f
c178 2 0 0.00753656f
c179 1 0 0.00668239f
r180 74 89 0.160909
r181 73 75 0.212317
r182 73 74 1.95429
r183 69 89 0.0418175
r184 68 88 0.160909
r185 67 89 0.160909
r186 67 68 4.07143
r187 63 88 0.0418175
r188 62 87 0.160909
r189 61 88 0.160909
r190 61 62 2.00857
r191 57 87 0.0418175
r192 56 86 0.160909
r193 55 87 0.160909
r194 55 56 1.95429
r195 51 86 0.0418175
r196 50 85 0.160909
r197 49 86 0.160909
r198 49 50 1.95429
r199 45 85 0.0418175
r200 44 84 0.160909
r201 43 85 0.160909
r202 43 44 3.20286
r203 39 84 0.0418175
r204 38 83 0.160909
r205 37 84 0.160909
r206 37 38 5.15714
r207 33 83 0.0418175
r208 32 82 0.160909
r209 31 83 0.160909
r210 31 32 4.28857
r211 27 82 0.0418175
r212 26 81 0.160909
r213 25 82 0.160909
r214 25 26 1.95429
r215 21 81 0.0418175
r216 20 80 0.106158
r217 19 81 0.160909
r218 19 20 0.542857
r219 14 80 0.106158
r220 12 14 0.787143
r221 10 75 0.787143
r222 9 69 0.787143
r223 8 63 0.787143
r224 7 57 0.787143
r225 6 51 0.787143
r226 5 45 0.787143
r227 4 39 0.787143
r228 3 33 0.787143
r229 2 27 0.787143
r230 1 21 0.787143
.ends

.subckt PM_D_FLIP_FLOP%VDD 2 3 4 5 6 7 8 9 10 11 12 13 15 26 32 38 44 50 56 62
+ 68 74 80 87 88 91 92 93 95 96
c183 97 0 0.00237014f
c184 96 0 0.00206017f
c185 95 0 0.00184697f
c186 94 0 0.00237014f
c187 93 0 0.00204979f
c188 92 0 0.00184144f
c189 91 0 0.00184144f
c190 90 0 0.00237014f
c191 89 0 0.00237014f
c192 88 0 0.00191353f
c193 80 0 0.018494f
c194 74 0 0.0204183f
c195 68 0 0.0103008f
c196 62 0 0.013675f
c197 56 0 0.00933781f
c198 50 0 0.0193421f
c199 44 0 0.0169803f
c200 38 0 0.00853371f
c201 32 0 0.0302797f
c202 26 0 0.0107731f
c203 20 0 0.00362829f
c204 15 0 0.00813615f
c205 13 0 0.0112748f
c206 12 0 0.00835167f
c207 11 0 0.00511977f
c208 10 0 0.00535787f
c209 9 0 0.00639625f
c210 8 0 0.00421924f
c211 7 0 0.00499174f
c212 6 0 0.00586935f
c213 5 0 0.00694391f
c214 4 0 0.00714503f
c215 3 0 0.00920794f
c216 2 0 0.00751722f
r217 81 97 0.160909
r218 80 82 0.212317
r219 80 81 1.95429
r220 76 97 0.0418175
r221 75 96 0.160909
r222 74 97 0.160909
r223 74 75 4.12571
r224 70 96 0.0418175
r225 69 95 0.160909
r226 68 96 0.160909
r227 68 69 1.95429
r228 64 95 0.0418175
r229 63 94 0.160909
r230 62 95 0.160909
r231 62 63 1.95429
r232 58 94 0.0418175
r233 57 93 0.160909
r234 56 94 0.160909
r235 56 57 1.95429
r236 52 93 0.0418175
r237 51 92 0.160909
r238 50 93 0.160909
r239 50 51 3.20286
r240 46 92 0.0418175
r241 45 91 0.160909
r242 44 92 0.160909
r243 44 45 2.98571
r244 40 91 0.0418175
r245 39 90 0.160909
r246 38 91 0.160909
r247 38 39 1.79143
r248 34 90 0.0418175
r249 33 89 0.160909
r250 32 90 0.160909
r251 32 33 4.28857
r252 28 89 0.0418175
r253 27 88 0.160909
r254 26 89 0.160909
r255 26 27 1.95429
r256 22 88 0.0418175
r257 21 87 0.106158
r258 20 88 0.160909
r259 20 21 0.542857
r260 15 87 0.106158
r261 13 15 1.00429
r262 12 82 1.00429
r263 11 76 1.00429
r264 10 70 1.00429
r265 9 64 1.00429
r266 8 58 1.00429
r267 7 52 1.00429
r268 6 46 1.00429
r269 5 40 1.00429
r270 4 34 1.00429
r271 3 28 1.00429
r272 2 22 1.00429
.ends

.subckt PM_D_FLIP_FLOP%Q 1 2 7
c7 1 0 0.0269266f
r8 2 7 1.05857
r9 1 7 1.38429
.ends

